US06444672B1
(3-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidin-1-yl}-2-(R)-ethoxycarbonylamino-1,1-dimethyl-3-oxo-propylsulfanyl)-acetic acid hydrotrifluoroacetate
A mixture of (3-{2-(S)-[(1-amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidin-1-yl}-2-(R)-ethoxycarbonylamino-1,1-dimethyl-3-oxo-propylsulfanyl)-acetic acid tert.-butyl ester hydroacetate (0.031 g; 0.048 mmol) and 1 mL trifluoroacetic acid in 1 mL of dichloromethane was stirred for 3 h at ambient temperature. The volatiles were pumped off followed by lyophilization to give 0.016 g (52%) of the title compound as a white solid. (+)-APCI-MS: 532 (MH+).

reactant | (3-{2-(S)-[(1-amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidin-1-yl}-2-(R)-ethoxycarbonylamino-1,1-dimethyl-3-oxo-propylsulfanyl)-acetic acid tert.-butyl ester | C(C)(C)(C)OC(CSC([C@@H](C(=O)N1[C@@H](CCC1)C(NCC=1C=C2C=CN=C(C2=CC1)N)=O)NC(=O)OCC)(C)C)=O | C29H41N5O6S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (3-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidin-1-yl}-2-(R)-ethoxycarbonylamino-1,1-dimethyl-3-oxo-propylsulfanyl)-acetic acid | 0.016 g, 52% | NC1=NC=CC2=CC(=CC=C12)CNC(=O)[C@H]1N(CCC1)C([C@H](C(C)(C)SCC(=O)O)NC(=O)OCC)=O | C25H33N5O6S
